US06310211B1
2-(2-Phenylethenyl)-8-quinolinol
A mixture of 8-hydroxyquinaldine (10.02 g) and benzaldehyde (16.8 mL) is heated at reflux overnight. The reaction is cooled to room temperature and vacuum distilled. After the excess benzaldehyde has distilled off, the residue remaining in the flask is dissolved in hot 95% EtOH. Any undissolved material is filtered off. The EtOH filtrate is cooled slowly to give the product as light yellow crystals (5.17 g).

reactant | 8-hydroxyquinaldine | 10.02 g | OC=1C=CC=C2C=CC(=NC12)C | C10H9NO
reactant | benzaldehyde | 16.8 mL | C(C1=CC=CC=C1)=O | C7H6O
product | 2-(2-Phenylethenyl)-8-quinolinol | 5.17 g | C1(=CC=CC=C1)C=CC1=NC2=C(C=CC=C2C=C1)O | C17H13NO
